US05496875
b) Preparation of dodecyl 2,2,6,6-tetramethyl-4-piperidyl succinate.
The product is prepared as described in Example 4b by reacting 30.9 g (0.12 mol) of mono(2,2,6,6-tetramethyl-4-piperidyl) succinate with 29.9 g (0.12 mol) of 1-bromododecane in the presence of 12.1 g (0.12 mol) of triethylamine. The product obtained has a boiling point of 195° C./5.3 mbar.

reactant | mono(2,2,6,6-tetramethyl-4-piperidyl) succinate | 0.12 mol, 30.9 g | C(CCC(=O)[O-])(=O)OC1CC(NC(C1)(C)C)(C)C
reactant | 1-bromododecane | 0.12 mol, 29.9 g | BrCCCCCCCCCCCC | C12H25Br
reactant | triethylamine | 0.12 mol, 12.1 g | C(C)N(CC)CC | C6H15N
product | dodecyl 2,2,6,6-tetramethyl-4-piperidyl succinate | C(CCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OCCCCCCCCCCCC | C25H47NO4
